US07332508B2
1-{4-[3-((1-Cyclopentylpiperidin-4-yl)methyl)[1,2,4]oxadiazol-5-yl]benzyl}-4-phenylpiperazine
The title compound was prepared by a similar procedure to that described in Example 23, starting from 4-[5-(4-chloromethylphenyl) [1,2,4]oxadiazol-3-ylmethyl]-1-cyclopentyl-piperidine and 1-phenylpiperazine.

reactant | 4-[5-(4-chloromethylphenyl) [1,2,4]oxadiazol-3-ylmethyl]-1-cyclopentyl-piperidine | ClCC1=CC=C(C=C1)C1=NC(=NO1)CC1CCN(CC1)C1CCCC1 | C20H26ClN3O
reactant | 1-phenylpiperazine | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
product | 1-{4-[3-((1-Cyclopentylpiperidin-4-yl)methyl)[1,2,4]oxadiazol-5-yl]benzyl}-4-phenylpiperazine | C1(CCCC1)N1CCC(CC1)CC1=NOC(=N1)C1=CC=C(CN2CCN(CC2)C2=CC=CC=C2)C=C1 | C30H39N5O
